US09108944B2
A mixture of 4-aminoisoquinoline-1-carbonitrile (500 mg, 2.95 mmol) and thiophosgene (0.34 mL, 4.44 mmol) in DMA (5 mL) was stirred at room temperature overnight. The mixture was diluted with EtOAc/water. The two layers were separated and the aqueous layer was extracted with EtOAc (3×). The organics were combined, washed with a saturated solution of sodium bicarbonate (2×), dried over sodium sulfate, and evaporated to dryness to afford 553 mg of 4-isothiocyanatoisoquinoline-1-carbonitrile as an orange oil. 1H NMR (300 MHz, DMSO-d6) δ 8.88 (s, 1H), 8.32 (d, 1H), 8.23 (d, 1H), 8.12 (td, 1H), 8.05 (td, 1H).

reactant | 4-aminoisoquinoline-1-carbonitrile | 2.95 mmol, 500 mg | NC1=CN=C(C2=CC=CC=C12)C#N | C10H7N3
reactant | thiophosgene | 4.44 mmol, 0.34 mL | C(=S)(Cl)Cl | CCl2S
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc water | CCOC(=O)C.O
product | 4-isothiocyanatoisoquinoline-1-carbonitrile | 553 mg | N(=C=S)C1=CN=C(C2=CC=CC=C12)C#N | C11H5N3S
